US08871937B2
7-((4-methylpyrimidine-2-ylamino)(4-nitrophenyl)methyl)quinolin-8-ol
The title compound was prepared by method B presented for the compound of Example 1 with the change that 2-amino-4-methyl-pyrimidine (Sigma), 4-nitro-benzaldehyde and 8-hydroxy-quinoline were used as starting materials. Product obtained: C21H17N5O3, (MW: 387.1); yield: 344 mg, (49.6%); m.p.: 136-145° C.; HPLC (CH3CN/H2O 70:30 Phenomenex C18 282 nm): Tr =5.21 min. NMR 9 (DMSO) δ2.14 (3H, s, CH3), 6.35 (1H, d, J =5.8 Hz), 6.55 (1H, s), 7.00 (1H, d, J =8.0 Hz), 7.36-7.43(2H, m], 7.50-7.55 (1H, m), 7.56 (1H, d, J =7.5 Hz), 7.60 (1H, d, J =8.5 Hz), 7.79 (1H, d, J =5.5 Hz), 8.15 (2H, d, J =8.5 Hz), 8.28 (1H, d, J =8.5 Hz), 8.84 (s, 1H), 10.1 (s, 1H); 13C NMR 9 (DMSO) δ 20.6 (CH3), 51.6 (NHCH), 109.0 (CH), 114.2 (CH), 117.7 (CH), 121.9 (CH), 123.5 (2×CH), 124.6 (Cq), 126.7 (CH), 127.7 (Cq), 128.2 (2×CH), 136.1 (CH), 138.2 (Cq), 146.2(Cq), 147.1 (Cq), 147.2 (CH), 148.5 (CH), 149.8, 152.0 and 157.9 (3 Cq).

reactant | 2-amino-4-methyl-pyrimidine | NC1=NC=CC(=N1)C | C5H7N3
reactant | 4-nitro-benzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 8-hydroxy-quinoline | OC=1C=CC=C2C=CC=NC12 | C9H7NO
solvent | CH3CN H2O | CC#N.O
product | 7-((4-methylpyrimidine-2-ylamino)(4-nitrophenyl)methyl)quinolin-8-ol | CC1=NC(=NC=C1)NC(C1=CC=C2C=CC=NC2=C1O)C1=CC=C(C=C1)[N+](=O)[O-] | C21H17N5O3
